US07226951B2
3-Iodo-benzaldehyde
A solution of 3-iodobenzyl alcohol (Aldrich, 4.72 g, 20 mmol) in dichloromethane (50 mL) and acetonitrile (5 mL) was treated sequentially with 4 A molecular sieves powder (5 g), tetra-n-propyl ammoniumperruthenate (0.1 g) and N-methyl morpholine-N-oxide (2.34 g, 40 mmol). After stirring at ambient temperature for 3 h, the reaction mixture was diluted with hexane and subjected to flash column chromatography over silica gel (230–400 mesh) using 6–10% ethyl acetate in hexane as the eluent to afford the title compound (3.7 g, 80%). It was used as such for the next step.

reactant | 3-iodobenzyl alcohol | 20 mmol, 4.72 g | IC=1C=C(CO)C=CC1 | C7H7IO
reactant | N-methyl morpholine-N-oxide | 40 mmol, 2.34 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | hexane | CCCCCC | C6H14
catalyst | tetra-n-propyl ammoniumperruthenate | 0.1 g | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 3-Iodo-benzaldehyde | 3.7 g, 80% | IC=1C=C(C=O)C=CC1 | C7H5IO
